US09216980B2
N-{3-(4-Piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-yl-methanesulfonamide
A solution of 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-amine (82.1 mg, 0.230 mmol) in pyridine (8.2 mL) was treated with methanesulfonyl chloride (58.7 μL, 0.758 mmol) and heated at 50° C. for 15 h. The cooled reaction mixture was treated with saturated sodium bicarbonate solution and diluted with 20% MeOH in DCM and water. The layers were separated, the aqueous phase extracted into 20% MeOH in DCM, and the combined organic phases were dried over sodium sulfate and concentrated in vacuo. The resultant residue was purified by preparative HPLC (0-30% MeCN in water (0.1% formic acid) over 30 min, 35 mL/min) to afford the title compound as a tan solid (38 mg, 38%). 1H NMR (DMSO-D6, 400 MHz): 12.03 (s, 1H), 8.96 (d, J=2.1 Hz, 1H), 8.88 (d, J=2.1 Hz, 1H), 8.64 (s, 1H), 7.85 (s, 1H), 7.77 (d, J=8.1 Hz, 2H), 7.42 (d, J=8.1 Hz, 2H), 3.48 (s, 2H), 3.22 (s, 3H), 2.36 (m, 4H), 1.55-1.46 (m, 4H), 1.41 (m, 2H). LCMS (Method D): RT=7.37 min, M+H+=436.

reactant | 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-amine | 0.230 mmol, 82.1 mg | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)N)N=C1 | C22H23N5
reactant | methanesulfonyl chloride | 0.758 mmol, 58.7 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | pyridine | 8.2 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(4-Piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-yl-methanesulfonamide | 38 mg, 38% | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)CS(=O)(=O)N)N=C1 | C23H25N5O2S
